US03985888
A mixture of 310 grams of polyphosphoric acid and 30.24 grams (0.1 M) of diethyl β-cyano-β-phenyladipate, prepared by the general method of Branchini et al., Annali di Chimica, 51, 1382 (1961), Chem. Abstr., 56, 15362f (1962), were heated and stirred under nitrogen atmosphere on a steam bath for five hours. The reaction mixture was poured into an icewater slurry keeping the mixture temperature at about 10° C. by additions of crushed ice. Solid potassium carbonate was added to the reaction mixture until the pH was five. On cooling overnight, a precipitate formed. Careful crystallization from acetone and then from isopropyl alcohol gave 1.1 grams (4.4%) of spiro-[indane-1,3'-piperidine]-2,3,6'-trione, melting point 227°-228° C.

reactant | diethyl β-cyano-β-phenyladipate | 0.1 M, 30.24 grams | C(#N)C(CC(=O)OCC)(CCC(=O)OCC)C1=CC=CC=C1 | C17H21NO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | spiro-[indane-1,3'-piperidine]-2,3,6'-trione | 1.1 grams, 4.4% | N1CC2(CCC1=O)C(C(C1=CC=CC=C12)=O)=O | C13H11NO3
